US06727264B1
4-{[(1-FORMYL-2-NAPHTHYL)OXY]METHYL}BENZONITRILE:
Prepared according to the Procedure for 2-(isopentyloxy)-1-naphthaldehyde using 2-hydroxy-1-naphthaldehyde and 4-(bromomethyl)benzonitrile.

reactant | 2-(isopentyloxy)-1-naphthaldehyde | C(CC(C)C)OC1=C(C2=CC=CC=C2C=C1)C=O | C16H18O2
reactant | 2-hydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | 4-(bromomethyl)benzonitrile | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
product | 4-{[(1-FORMYL-2-NAPHTHYL)OXY]METHYL}BENZONITRILE | C(=O)C1=C(C=CC2=CC=CC=C12)OCC1=CC=C(C#N)C=C1 | C19H13NO2
